US08431695B2
Step 2: Preparation 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carbonitrile
1-Amino-1H-pyrrole-2,4-dicarbonitrile (3.00 g, 22.71 mmol), formamidine acetate (22.71 g, 272.47 mmol) and K2CO3 (43.93 g, 317.88 mmol) were diluted in EtOH (105 mL). The mixture was heated at 80° C. for 2 h and then cooled to rt. EtOAc (200 mL) was added and the organic layer was washed with water (100 mL), dried over MgSO4 and then concentrated to dryness. The crude material was purified by ISCO® chromatography to afford the desired product (2.58 g, 71%). 1H NMR (400 MHz, DMF-d6) δ 7.91 (s, 1H), 7.64 (s, 1H), 7.61 (s, 1H), 7.21 (s, 2H); LC-MS m/z[M+H]+ 159.9, RT 1.21 min.

reactant | 1-Amino-1H-pyrrole-2,4-dicarbonitrile | 22.71 mmol, 3.00 g | NN1C(=CC(=C1)C#N)C#N | C6H4N4
reactant | formamidine acetate | 272.47 mmol, 22.71 g | C(C)(=O)O.C(=N)N
reactant | K2CO3 | 317.88 mmol, 43.93 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 105 mL | CCO | C2H6O
product | 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carbonitrile | 2.58 g, 71% | NC1=NC=NN2C1=CC(=C2)C#N | C7H5N5
